US07799822B2
Chlorosulfonic acid (2 mL) was added to 2,2,2-trifluoro-1-(4-phenylpiperidin-1-yl)ethanone (1.0 g, 3.9 mmol) in a single portion, and the reaction was stirred for 20 minutes until gas evolution ceased (exothermic reaction). The solution was poured into a mixture of ice water (200 mL) and EtOAc (20 mL). The organic layer was concentrated and purified via silica gel chromatography using 8/2 hexanes/EtOAc to obtain 4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzene-1-sulfonyl chloride as a clear oil (1.3 g, 94%). 1H NMR (400 MHz, CDCl3) δ 8.02-8.00 (m, 2H), 7.48-7.45 (m, 2H), 4.78-4.73 (m, 1H), 4.19 (dd, J=14.0, 1.6 Hz, 1H), 3.32-3.25 (m, 1H), 3.02-2.86 (m, 2H), 2.03-2.02 (m, 2H), 1.81-1.70 (m, 2H).

reactant | Chlorosulfonic acid | 2 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2,2,2-trifluoro-1-(4-phenylpiperidin-1-yl)ethanone | 3.9 mmol, 1.0 g | FC(C(=O)N1CCC(CC1)C1=CC=CC=C1)(F)F | C13H14F3NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzene-1-sulfonyl chloride | 1.3 g, 94% | FC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C13H13ClF3NO3S
